Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
albumin colloid, human / ceftriaxone
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, abdominal distension, jaundice 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Patient is a ___ with history of alcoholic hepatitis 
(___), withdrawal seizures (x2), and multiple sclerosis (not 
on treatment) who presented with alcohol relapse, depression, 
and jaundice.

Of note, the patient had a previous discharge from ___ on 
___ for alcoholic hepatitis complicated by ICU admission for 
anaphylaxis precipitated by human colloid albumin and 
ceftriaxone. No portal venous thrombosis or ascites at that 
time. She also had a previous discharge from ___ on ___ for 
alcoholic withdrawal and found to prolonged QTc without ST-T 
segment changes. 

Patient states that she came in today because of alcohol relapse 
and fear of having a withdrawal seizure, depression, jaundice. 
She is very motivated to be detoxed. 

In regards to patients worsening abdominal pain, poor PO intake, 
jaundice, pt shares she relapsed in ___ after losing her job. 
Since then she started drinking ___ shots of liquor a day. 3 
weeks ago she started noticing worsening abdominal discomfort, 
nausea, dry heaving and poor PO intake. At this point she 
started drinking more to suppress her symptoms. The past 1 week, 
shes noticed jaundice, black tarry stools once a day. She has 
been taking Zofran in order to keep her alcohol down every day. 
Zofran was prescribed by her PCP. Her last drink was on ___ at 
noon, she tried to stop on her own but then  came to the ED 
after she realized her situation was untenable. 

In regards to her drinking history patient first started 
drinking at the age of ___ during her first marriage. She 
graduated from a ___'s addiction ___ ___ but 
relapsed in ___ and required her first hospitalization 
for alc hep. She was then again sober from ___ to ___ and 
___ again from ___ to ___. In ___ she was in 
___ with her husband's family when she binge drank 
for 2 days, on the third day after stopping, she had a seizure 
and was hospitalized for that. Since then she was sober from 
___. 

In terms of her depression, pt is on citalopram 10mg daily. She 
has had one previous SI at age ___ after ingesting aspirin. 
Currently, no active suicidal ideation or self-injurious 
behavior. 

REVIEW OF SYSTEMS: Per HPI, denies fever, chills, night sweats, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, diarrhea, constipation, BRBPR, 
dysuria, hematuria.
 
In the ED initial vitals:  
T: 99.1 HR: 110 RR: 18 BP: 136/89 SO2: 99
 - Exam notable for:  
Guaiac negative brown stool, scleral icterus, hand tremors 
 - Imaging notable for:
Cirrhotic liver, portal hypertension, no ascites, splenomegaly 
at 14.6 cm
CXR with no cardiopulmonary process
 - Labs notable for:
AST 211, ALT 48,  Tbili 10.8, BUN <3, Cr 0.3,  Ca 7.1, Mg 1.2, P 
2.0, Lactate 4.1, INR 1.6, WBC 8.0, H/H 11.2, Plt 111, Alb 2.7
 - Patient was given:
1 L NS, IV phenobarbital
KCL 40 mEq
Prednisone 40 mg
Thiamine 100 mg
Magnesium Sulfate 4 gm
Neutra-Phos 2 PKT
 - Vitals prior to transfer:  T: 97.9 BP: 130/91 HR: 96 RR: 18 
SaO2: 99

 
Past Medical History:
- alcohol abuse 
- depression, previous suicide attempt > 6 months ago 
- history of alcohol withdrawal with one seizure in ___  
- recent diagnosis of multiple sclerosis by a neurologist in 
___, is trying to get interferon-beta-1a treatment  
- anxiety
- optic neuritis
 
Social History:
___
Family History:
Parents, brother - alcohol abuse
Mother renal cancer
Father diabetes
Brother ulcerative colitis
 
Physical Exam:
Admission physical exam:
VS: 99.2 PO 127 / 83 96 18 97 RA 
GENERAL:  Sitting up, eating ice cream, fast speech 
HEENT: Scleral icteric, MMM, neck supple with palpable thyroid, 
sublingual jaundice 
NECK: no cervical LAD, thyroid supple  
CARDIAC: RRR, grade 2 systolic murmur heard best at ___
PULMONARY: CTAB with no increased work of breathing, no 
crackles, wheezing
ABDOMEN: distended, jaundice, nontender to deep palpation 
diffusely, negative fluid wave, hepatomegaly to >4cm past 
costophrenic angle 
GENITOURINARY: No foley in place
EXTREMITIES/ SKIN: Mild ___ erythema, + asterixis, + spider 
angiomata, no edema
NEUROLOGIC:  AOX3, able to state days of the week backwards 
PSYCHIATRIC:  Fast speech, normal thought process 

Discharge physical exam:
VS: 99.1PO 125 / 78 L Sitting 110   96 Ra 
GENERAL:  Sitting up in bed, speaking comfortably, pleasant, NAD
HEENT: Scleral icteric, dry mucous membranes, sublingual 
jaundice 
NECK: no cervical LAD, thyroid supple  
CARDIAC: RRR, grade 2 systolic murmur heard best at ___
PULMONARY: CTAB with no increased work of breathing, no 
crackles, wheezing
ABDOMEN: distended, jaundice, nontender to deep palpation, 
hepatomegaly to >4cm palpated beyond rib. No suprapubic 
tenderness
GENITOURINARY: No foley in place
EXTREMITIES/ SKIN: Mild ___ erythema, - asterixis, + spider 
angiomata, trace ___ edema b/l
BACK: No CVA tenderness
NEUROLOGIC:  AOX3 

 
Pertinent Results:
Admission labs:
___ 01:50AM BLOOD WBC-8.0 RBC-3.30* Hgb-11.2# Hct-31.6* 
MCV-96 MCH-33.9*# MCHC-35.4# RDW-16.4* RDWSD-57.2* Plt ___
___ 01:50AM BLOOD Neuts-76.2* Lymphs-7.4* Monos-14.1* 
Eos-1.2 Baso-0.4 Im ___ AbsNeut-6.10 AbsLymp-0.59* 
AbsMono-1.13* AbsEos-0.10 AbsBaso-0.03
___ 01:50AM BLOOD Plt ___
___ 02:00AM BLOOD ___ PTT-36.5 ___
___ 01:50AM BLOOD Glucose-126* UreaN-3* Creat-0.5 Na-135 
K-3.0* Cl-91* HCO3-24 AnGap-23*
___ 01:50AM BLOOD ALT-56* AST-244* AlkPhos-331* 
TotBili-10.1* DirBili-7.8* IndBili-2.3
___ 01:50AM BLOOD Albumin-3.1* Calcium-8.0* Phos-2.5* 
Mg-1.3*
___ 09:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:09AM BLOOD ___ pO2-108* pCO2-36 pH-7.49* 
calTCO2-28 Base XS-4

Pertinent labs:
___ 01:50AM BLOOD Lipase-26
___ 09:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:09AM BLOOD Lactate-4.1*
___ 05:59PM BLOOD Lactate-7.4*
___ 04:41AM BLOOD Lactate-2.9*

Discharge labs:
___ 05:34AM BLOOD WBC-8.2 RBC-2.74* Hgb-9.5* Hct-27.9* 
MCV-102* MCH-34.7* MCHC-34.1 RDW-20.6* RDWSD-76.2* Plt ___
___ 05:34AM BLOOD Neuts-68.8 Lymphs-15.5* Monos-14.3* 
Eos-0.6* Baso-0.1 NRBC-0.2* Im ___ AbsNeut-5.62 
AbsLymp-1.27 AbsMono-1.17* AbsEos-0.05 AbsBaso-0.01
___ 08:55AM BLOOD ___
___ 05:34AM BLOOD Plt ___
___ 05:34AM BLOOD Glucose-100 UreaN-9 Creat-0.5 Na-134 
K-4.2 Cl-96 HCO3-25 AnGap-17
___ 05:34AM BLOOD ALT-23 AST-60* LD(LDH)-262* AlkPhos-177* 
TotBili-12.2* DirBili-9.1* IndBili-3.1
___ 05:34AM BLOOD Albumin-2.9* Calcium-8.7 Phos-2.9 Mg-1.8

Diagnostics:
Blood culture ___: No growth
Urine culture-
URINE CULTURE  on ___
(Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      ENTEROCOCCUS SP..    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |          ENTEROCOCCUS SP.
                             |          |   
AMPICILLIN------------     4 S      <=2 S
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S     <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TETRACYCLINE----------             =>16 R
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
VANCOMYCIN------------                1 S

Urine culture ___- No growth.
Urine culture ___
URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    10,000-100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------  =>32 R
LINEZOLID-------------     2 S
NITROFURANTOIN--------   128 R
TETRACYCLINE----------     4 S
VANCOMYCIN------------  =>32 R

Abdominal ultrasound ___: 
1 .Cirrhotic liver with patent portal and hepatic veins.  
Variability in the  directionality of flow in the main portal 
vein is secondary to portal 
hypertension. 
2. No ascites. 
3. Splenomegaly at 14.6 cm. 
  
Lower extremity venous Doppler ultrasound ___:
1. No evidence of deep venous thrombosis in the left lower 
extremity veins. 
2. Left popliteal cyst measuring up to 5.5 cm. 
  

 
Brief Hospital Course:
___ woman with history of alcoholic hepatitis (___), 
withdrawal seizures (x2), and multiple sclerosis (not on 
treatment) who presented with alcohol relapse (last drink ___ @ 
noon), depression, and jaundice. 

#Alcoholic hepatitis: On history patient shared she was drinking 
over seven to eight shots of liquor a day and the week prior to 
admission, was taking Zofran prior to her drinks secondary to 
extreme nausea. She also experienced fatigue, malaise, abdominal 
discomfort and no oral intake. Physical exam notable for 
jaundice, abdominal distension, hepatomegaly. Labs notable for 
AST 56, ALT 244, LDH 453, Alk phos 331, Bili 10.1 (peak 16.4), 
dbil 7.7(peak 13.0), WBC 8.0 stable throughout stay, INR 1.6 
(peak 2.4) -> DF 34.9 (peak >80). Abdominal ultrasound notable 
for cirrhotic liver with patent portal and hepatic veins, portal 
hypertension, no ascites, splenomegaly at 14.6 cm. Infection 
work up done prior to initiation of prednisone was notable for 
positive urine analysis and urine culture showing ecoli 
(ciprofloxacin ___ and then grew enterococcus (macrobid 
___, repeat UA negative, repeat urine culture with 
enterococcus growth on ___ after discharge. Pt remained 
hemodynamically stable with tmax of 100.8. Prednisone 40mg PO 
started on ___ with improvement of LFTs. 

#Alochol withdrawal: Patient completed a phenobarbital taper for 
her withdrawal and she tolerated it well, no seizures, DT, or 
additional medications required to control withdrawal. Given 
thiamin 500mg TID for three days, multivitamins, on delirium and 
fall precautions. 

#UTI: Incidental finding prior to initiating prednisone. See 
above for more detail. 

#sinus tachycardia: Course complicated by sinus rhythm 
tachycardia likely in the setting of malnutrition and 
deconditioning. Albumin deferred as patient has an allergy to 
albumin, fluids deferred as well as patient had great PO intake 
and cirrhosis. '

#Cirrhosis: No established hepatologist and has never had an 
EGD. Patient will follow up with outpatient hepatology for 
further management. Given active drinking, no plans for 
transplant. MELD >26

#Hepatic encephalopathy: Prior admission with alc hep one year 
ago notable for grade 1 with ammonia of 71, intermittent 
confusion and mild asterixis. This admission, no concern for 
hepatic encephalopathy, mild asterixis the first two days in 
house. RUQUS with no portal vein thrombosis. Continued of 
lactulose and rifaximin. 

#Depression: Not active. No SI/HI. Maintained on citalopram 10mg 
daily, but QTc between 480-530 so held while in house and on 
discharge.  

=====================
Transitional issues:
=====================
1. Follow up urine culture, if positive, initiate treatment with 
antibiotics for minimum of 7 days. Per hepatology, okay to 
continue prednisone. 
2. Please refer to GI/hepatology for further management of her 
alcoholic hepatitis and prednisone course. Please ensure patient 
gets an endoscopy to evaluate for varicies. Patient has been 
started on calcium, vitamin D, pantoprazole and Bactrim in the 
setting of long term prednisone usage. 
3. Consider checking a B12 in the setting of macrocytic anemia 
H/H 9.5/27.5, MCV 102. 
4. Discharge labs:
ALT 23, AST 60, LDH 262, ALKPHOS 177,TotBili 12.2, Dbili 9.1, 
indbili 3.1, albumin 2.9. 
5. Patient is working on an outpatient program to help with her 
alcohol dependence as well as a MS support group.
6. Follow up with neurology for treatment of MS given intention 
to stay sober (initially treatment deferred in the setting of 
acute alcohol dependence). 
7. Repeat EKG for QTc monitoring prior to restarting citalopram. 
QTc on discharge 480. 

Code: Full 
Name of health care proxy: ___ 
Phone number: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 10 mg PO DAILY 
2. Ondansetron 4 mg PO Q8H:PRN nasuea 
3. Magnesium Oxide 400 mg PO DAILY 
4. Potassium Chloride 20 mEq PO DAILY 
5. Cyanocobalamin 250 mcg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. flaxseed oil 1,000 mg oral DAILY 

 
Discharge Medications:
1.  Calcium Carbonate 1000 mg PO DAILY 
RX *calcium carbonate 500 mg calcium (1,250 mg) 2 tablet(s) by 
mouth every day Disp #*30 Tablet Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth every day Disp #*30 
Tablet Refills:*0 
3.  Lactulose 30 mL PO TID:PRN HE  
RX *lactulose 10 gram/15 mL 30 ml by mouth up to three times a 
day, titrate to 3 bowel movements Refills:*0 
4.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every day Disp #*30 
Tablet Refills:*0 
5.  PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth every day Disp #*60 
Tablet Refills:*0 
6.  Rifaximin 550 mg PO BID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth every 12 
hours Disp #*60 Tablet Refills:*0 
7.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth every day Disp #*30 Tablet Refills:*0 
8.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth every 
day Disp #*30 Tablet Refills:*0 
9.  Vitamin D 800 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 400 unit 2 tablet(s) by mouth 
every day Disp #*60 Tablet Refills:*0 
10.  Cyanocobalamin 250 mcg PO DAILY  
11.  flaxseed oil 1,000 mg oral DAILY  
12.  Magnesium Oxide 400 mg PO DAILY  
13.  Multivitamins 1 TAB PO DAILY  
14. HELD- Citalopram 10 mg PO DAILY  This medication was held. 
Do not restart Citalopram until talking to your primary care 
doctor and after you get an EKG
15. HELD- Ondansetron 4 mg PO Q8H:PRN nasuea  This medication 
was held. Do not restart Ondansetron until you speak to your 
primary care doctor, you will need a repeat EKG
16. HELD- Potassium Chloride 20 mEq PO DAILY  This medication 
was held. Do not restart Potassium Chloride until you speak to 
your primary care doctor 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
==================
Alcoholic hepatitis
Liver cirrhosis 
Alcohol intoxication
Urinary Tract Infection

Secondary Diagnosis
====================
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure caring for you here at ___ and celebrating 
your birthday with you!

What happened while you were at the hospital?
- You were admitted because of worsening abdominal distention, 
jaundice, nausea, vomiting, unable to eat food, dark urine and 
alcohol withdrawal. 
- Your physical exam showed jaundice and an inflamed liver. Your 
labs were notable for elevated liver enzymes which indicates 
liver injury and inflammation. An abdominal ultrasound was taken 
which showed you have cirrhosis (severe scarring of your liver).
- You were diagnosed with something we call alcoholic hepatitis. 
This is a very serious disease where your liver becomes 
extremely inflamed and your body is susceptible for several 
complications including infection and bleeding. Fortunately, you 
did not suffer from any of the complications of alcoholic 
hepatitis this time. 
- You were treated for your withdrawal symptoms with medication 
and you tolerated the withdrawal well with no seizures and 
minimal symptoms. 
- Prednisone is a medication that may help decrease the 
inflammation of the liver in alcoholic hepatitis, but it also 
lowers the immune system and can worsen an infection if one 
exists. You were worked up for an infection before starting 
prednisone, and a urinary tract infection was found. You were 
treated for 5 days with antibiotics and you were started on 
prednisone. Your liver function tests have improved since 
starting the prednisone. 
 
What to do when you are discharged?
- Continue taking the prednisone. Prednisone is a steroid and 
decreases the immune system which makes the body more 
susceptible to infection. Sometimes, it can also cause weight 
gain, mood changes, thinning of the skin, elevated blood sugars 
and bone weakness. Please be very mindful for possible 
infection, look out for burning while peeing, fevers, chills, 
sweats, abdominal pain, diarrhea, shortness of breath, cough, 
sore throat etc. We will also prescribe you calcium and vitamin 
D to ensure good bone health, an antiacid to protect the lining 
of your stomach from the steroid, and also an antibiotic that 
will prevent pneumonia from a specific bacteria called "PCP" 
that can infect the lungs of people on steroids. 
- Please follow up with your primary care doctor. You will be 
referred to a hepatologist to further manage your alcoholic 
hepatitis and liver cirrhosis. 
- You will require an endoscopy of your esophagus in the next 
few weeks that your hepatologist will arrange. Cirrhosis can 
cause large blood vessels in your esophagus to swell up and 
bleed and it is dangerous. The endoscopy can prevent the 
progression of these vessels and monitor them closely. 
- Please follow up with an outpatient rehab program as discussed 
with social work and please reach out to social work services 
for additional help if you need it.
- If you have trouble sleeping, please take ___ of Melatonin 
(over the counter) before bed time. Please talk to your primary 
care doctor if you still have trouble.  

We are happy you are feeling better and wish you all the best.

Sincerely,
Your ___ team 

 
Followup Instructions:
___